US05196593
3-Chloro-2-fluoro-5-(trifluoromethyl)benzoic acid and an equimolar amount of p-nitrophenol are stirred with an equimolar amount of anhydrous potassium carbonate in dimethylsulfoxide at 110° C. for 24 hours and then left overnight at room temperature. The mixture is then poured into dilute hydrochloric acid and the solid is recovered and purified by dissolving, washing and drying to give 4'-nitrophenoxy ether at the 2-position of 3-chloro-5-(trifluoromethyl)benzoic acid.

reactant | 3-Chloro-2-fluoro-5-(trifluoromethyl)benzoic acid | ClC=1C(=C(C(=O)O)C=C(C1)C(F)(F)F)F | C8H3ClF4O2
reactant | p-nitrophenol | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 3-chloro-5-(trifluoromethyl)benzoic acid | ClC=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C8H4ClF3O2
